US06858638B2
N-(3-Benzo[b]thiophen-2-yl-1H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide can be obtained as described in Example 59 from 0.5 g of tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate, 300 mg of thianaphthene-2-boronic acid, 20 ml of dimethylformamide, 1.9 ml of a saturated aqueous solution of sodium hydrogencarbonate and 25 mg of tetrakis(triphenylphosphine)palladium[0]. 150 mg of N-(3-benzo[b]thiophen-2-yl-1H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide are thus obtained in the form of a white solid melting at 270° C. (analysis C22H17N3O4S3 % calculated C, 54.64; H, 3.54; N, 8.69; O, 13.23; S, 19.89. % found C, 54.59H: 3.47; N, 8.79; S, 19.98).

reactant | tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate | 0.5 g | IC1=NN(C2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C19H20IN3O6S2
reactant | thianaphthene-2-boronic acid | 300 mg | B(C1=CC2=CC=CC=C2S1)(O)O | C8H7BO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(3-benzo[b]thiophen-2-yl-1H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide | 150 mg | S1C2=C(C=C1C1=NNC3=CC=C(C=C13)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C=CC=C2 | C22H17N3O4S3
